US07855290B2
N-(2-Fluoro-4-{[2-({[methyl(1-methylpiperidin-4-yl)amino]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
To a solution of phenyl N-[4-(3-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-phenoxycarbonylcarbamate (50.0 mg) in N,N-dimethylformamide (1.0 ml) was added 1-methyl-4-(methylamino)piperidine (0.0436 ml), followed by stirring at room temperature for 16 hr. The reaction mixture was partitioned between ethyl acetate and a 1N aqueous solution of sodium hydroxide. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (Fuji Silysia NH, heptane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate:methanol=50:1). Fractions containing the target compound were concentrated. To the residue was added diethyl ether:hexane=1:3, and the precipitate was collected by filtration. This was washed with diethyl ether:hexane=1:3 and dried under aeration to provide the titled compound as white powder (26.1 mg, 60.1%).

reactant | phenyl N-[4-(3-fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-phenoxycarbonylcarbamate | 50.0 mg | FC=1C=C(OC2=CC(=NC=C2)N(C(OC2=CC=CC=C2)=O)C(=O)OC2=CC=CC=C2)C=CC1NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O | C36H26F2N4O7
reactant | 1-methyl-4-(methylamino)piperidine | 0.0436 ml | CN1CCC(CC1)NC | C7H16N2
reactant | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-(2-Fluoro-4-{[2-({[methyl(1-methylpiperidin-4-yl)amino]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 26.1 mg, 60.1% | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C30H32F2N6O4
